Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia
 
Major Surgical or Invasive Procedure:
Upper Endoscopy ___

 
History of Present Illness:
___ h/o developmental delay, diabetes, hypertension and CVA and 
current treatment for osteomyelitis who presented from PCP 
office for evaluation of weakness, loss of appetite, and anemia. 


The patient is unable to provide history and history obtained 
from patient's sister ___ and medical chart. Per 
___, the patient had been doing well. She took him to his 
ID appointment on ___ he did OK transferring to the car, and 
they went out for lunch with good PO intake. She subsequently 
took him to see his podiatrist on ___, and he was very weak. 
It was difficult to get him to the car and since then he has 
been much weaker than usual w/ very poor appetite. She also 
reports his speech is more slurred and his pupils have been 
small. He has had black tarry stool but this was attributed to 
his iron supplements. Also reports of weight loss- current 
reported weight of 124 from baseline of 135-140lbs. Also reports 
occasional hypoglycemia at home. The patient was seen by his PCP 
today who sent the patient to the ED for evaluation.

On arrival to the floor, the patient denies pain. He denies 
fevers or chills. Denies headache or blurry vision. Denies chest 
pain or shortness of breath. No difficulty with urination. 
Unable to provide additional history. 

ROS: Pertinent positives and negatives as noted in the HPI.  All 
other systems were reviewed and are negative. 
 
Past Medical History:
HTN, HLD, depression, DM II w/ diabetic retinopathy
Constipation
Osteoporosis
Hip fracture x2
Toe osteomyelitis, currently on 12 weeks of Bactrim/Cipro
CVA ___- at ___
 
Social History:
___
Family History:
Unable to obtain.
 
Physical Exam:
-Vitals: reviewed, max 98.5F, HR 66-77, BP 127/70-161/72
-GENERAL: Thin, pale, NAD, resting comfortably 
-EYES: Anicteric, pupils pinpoint
-ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
-CV: RRR, no murmur.
-RESP: clear to auscultation with good air movement bilaterally. 
 Breathing is non-labored
-GI:  soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  
-GU: No suprapubic fullness or tenderness to palpation
-MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
-SKIN: +abrasion of right shin with some surrounding erythema. 
Right great toe with small eschar without surrounding erythema. 
Blanching erythema on coccyx/ buttocks. Small yellow/purple 
bruise to tailbone.
-NEURO: Alert, face symmetric, gaze conjugate with EOMI, speech 
fluent, moves all limbs although globally weak, difficult to 
asses strength, sensation to light touch grossly intact 
throughout
-PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS
___ 02:08PM BLOOD WBC-6.8 RBC-3.09* Hgb-9.3* Hct-29.0* 
MCV-94 MCH-30.1 MCHC-32.1 RDW-13.0 RDWSD-44.4 Plt ___
___ 02:08PM BLOOD Neuts-74.9* Lymphs-13.8* Monos-8.5 
Eos-1.3 Baso-0.9 Im ___ AbsNeut-5.11 AbsLymp-0.94* 
AbsMono-0.58 AbsEos-0.09 AbsBaso-0.06
___ 02:08PM BLOOD ___ PTT-28.2 ___
___ 07:44AM BLOOD Ret Aut-1.4 Abs Ret-0.04
___ 02:08PM BLOOD Glucose-94 UreaN-23* Creat-1.1 Na-137 
K-5.6* Cl-100 HCO3-24 AnGap-13
___ 02:08PM BLOOD ALT-37 AST-40 AlkPhos-182* TotBili-0.2
___ 02:08PM BLOOD Lipase-75*
___ 02:08PM BLOOD Albumin-3.7 Calcium-11.4* Phos-2.8 
Mg-1.4*
___ 07:44AM BLOOD calTIBC-159* Ferritn-348 TRF-122*
___ 07:44AM BLOOD %HbA1c-5.9 eAG-123
___ 02:18PM BLOOD Lactate-2.7* K-5.0

DISCHARGE LABS
___ 07:17AM BLOOD WBC-6.0 RBC-3.20* Hgb-9.6* Hct-30.0* 
MCV-94 MCH-30.0 MCHC-32.0 RDW-12.9 RDWSD-44.2 Plt ___
___ 07:17AM BLOOD Glucose-152* UreaN-5* Creat-0.9 Na-136 
K-5.0 Cl-100 HCO3-23 AnGap-13

Baseline Hemoglobin around 11.
Cr: 1.1; baseline 1.1-1.3

IMAGING 
-CXR: No acute cardiopulmonary process. 
-Head CT: No acute intracranial abnormality 
-KUB: fluid filled loops, consistent with ileus

-Endoscopy Reports ___:  Small hiatal hernia. Erosion in 
the gastroesophageal junction (biopsy). Normal mucosa in the 
stomach. Normal mucosa in the duodenum (biopsy). Otherwise 
normal EGD to duodenum
 
Brief Hospital Course:
___ h/o developmental delay, DM, HTN, and chronic right great 
toe osteomyelitis currently on 12 weeks of antibiotics presented 
with weakness, anorexia and unintentional weight loss found to 
have acute on chronic anemia and hypercalcemia. 

#Acute on chronic anemia - Hgb drop to 7.9 on ___ from 9.3 on 
admission and a previous baseline of 11 associated with dark 
guaiac positive stools. Also with reported difficulty swallowing 
and significant unintentional weight loss. Underwent EGD on 
___ but without obvious source of bleed. Prep for colonscopy 
was started but complicated by ileus and then further difficulty 
prepping due to refusal to take in mag citrate.  As such, and 
with stable hct and guaic negative stool, colonoscopy was 
cancelled.  Alternative etiologies were considered, including 
the antibiotics for his toe infection and thus these were 
changed to augmentin.  Recommend continued monitoring with CBC 
outpatient. 

#Ileus - While prepping for colonoscopy he developed an ileus.  
Prep was stopped and colonoscopy was cancelled.  He was started 
back on a bowel regimen with resolution of ileus and improvement 
in bowel movements.  He never had abdominal pain, nausea or 
vomiting, even with ileus.  He will require aggressive bowel 
regimen, as constipation may in part be causing his symptoms of 
decreased appetite and anorexia.

#Unintentional weight loss - no e/o occult malignancy on CT 
Torso, passed SLP eval. Etiology was likely related to 
antibiotics, given time course, or to chronic constipation, with 
fecal load on admission ct and ileus.   

#Type 2 Diabetes Mellitus with recent hypoglycemia - initially 
hypoglycemic on presentation and was hydrated with D5LR but 
transitioned off after finger sticks were noted to be > 200. His 
home diabetic medications were held on admission and he was 
continued on QID finger sticks with Humalog Sliding Scale as 
well as low dose lantus insulin. A1C 6.9%. 

HLD - He was continued on his outpatient Atorvastatin but held 
his Aspirin in the setting of acute on chronic anemia with 
concern for acute gastrointestinal bleed.  Resume aspirin 
outpatient with stable hemoglobin. 

#Osteomyelitis of hallux of right great toe - on 12 week course 
of outpatient antibiotics (through ___ followed by 
Infectious Disease and Podiatry clinics here at ___. He was 
continued on his home oral Ciprofloxacin and Bactrim per 
outpatient regimen that was changed to single agent augmentin 
___ as trial to improve appetite.  He will need to follow up 
with outpatient ID ___.

#HTN - antihypertensives initially held on admission due to 
normotension.  However, at discharge he became hypertensive and 
discharged on valsartan and metoprolol; amlodipine can be 
resumed outpatient if he remains hypertensive.
 
TRANSITIONAL ISSUES
-ID follow up for osteomyelitis
-Monitor blood pressure and adjust antihypertensive regimen. 
-Resume aspirin if hemoglobin stable. 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Docusate Sodium 100 mg PO BID 
3. Ciprofloxacin HCl 500 mg PO Q12H 
4. Sulfameth/Trimethoprim DS 1 TAB PO BID 
5. Repaglinide 0.5 mg PO TIDAC 
6. Calcium Carbonate 600 mg PO BID 
7. irbesartan 150 mg oral DAILY 
8. Aspirin 81 mg PO DAILY 
9. Ferrous Sulfate 325 mg PO BID 
10. MetFORMIN (Glucophage) 1000 mg PO BID 
11. Tradjenta (linagliptin) 5 mg oral DAILY 
12. Vitamin D ___ UNIT PO DAILY 
13. Metoprolol Succinate XL 50 mg PO DAILY 
14. FLUoxetine 20 mg PO DAILY 
15. amLODIPine 5 mg PO DAILY 
16. Acetaminophen 975 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  RX 
*amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by mouth 
Q12 hours Disp #*78 Tablet Refills:*0 
2.  Bisacodyl 10 mg PO DAILY Constipation - Second Line 
RX *bisacodyl 5 mg 2 tablet(s) by mouth constipation Disp #*60 
Tablet Refills:*0 
3.  Bisacodyl ___AILY:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally daily PRN Disp 
#*30 Suppository Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY  RX *polyethylene glycol 
3350 [Miralax] 17 gram 17grams powder(s) by mouth daily Disp 
#*24 Packet Refills:*0 
5.  Acetaminophen 975 mg PO Q8H:PRN Pain - Mild  
6.  Atorvastatin 80 mg PO QPM  
7.  Calcium Carbonate 600 mg PO BID  
8.  Docusate Sodium 100 mg PO BID  
9.  Ferrous Sulfate 325 mg PO BID  
10.  FLUoxetine 20 mg PO DAILY  
11.  irbesartan 150 mg oral DAILY  
12.  MetFORMIN (Glucophage) 1000 mg PO BID  
13.  Metoprolol Succinate XL 50 mg PO DAILY  
14.  Repaglinide 0.5 mg PO TIDAC  
15.  Tradjenta (linagliptin) 5 mg oral DAILY  
16.  Vitamin D ___ UNIT PO DAILY  
17. HELD- amLODIPine 5 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until instructed by PCP if remain 
hypertensive 
18. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until instructed to by PCP (with stable 
hemoglobin)
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute on chronic anemia
Hypercalcemia
Type 2 Diabetes Mellitus with hypoglycemia
Unintentional Weight Loss

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with weakness found to have low blood counts.  
You had an upper endoscopy, which did not show bleeding.  We 
started preparing your for a colonoscopy, but your bowels slowed 
down and this was not done.    

It was a pleasure taking care of you.
-Your ___ team
 
Followup Instructions:
___